US04696927
A solution of trichloromethyl chloroformate (4.1 g) in methylene chloride (15 ml) is slowly added to a stirred mixture of ethyl-3-amino-3-methylbutanoate (3 g), triethylamine (6.6 g) and methylene chloride (30 ml) at 5° C. The mixture is stirred overnight at room temperature, refluxed for 3 hours, cooled and anhydrous ether added thereto. The precipitated triethylamine hydrochloride is filtered and the filtrate evaporated to yield 2-ethoxycarbonyl-1,1-dimethylethylisocyanate as an oil (3.5 g).

reactant | trichloromethyl chloroformate | 4.1 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | ethyl-3-amino-3-methylbutanoate | 3 g | C(C)OC(CC(C)(C)N)=O | C7H15NO2
reactant | triethylamine | 6.6 g | C(C)N(CC)CC | C6H15N
reactant | ether | CCOCC | C4H10O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-ethoxycarbonyl-1,1-dimethylethylisocyanate | 3.5 g | C(C)OC(=O)CC(C)(C)N=C=O | C8H13NO3
